US07479502B2
Proceeding as in Reference 19, but substituting 3-bromo-5-formyl-4-methoxy-benzenesulfonamide and 5-cyano-2-methoxy-benzeneboronic acid, gave 5′-cyano-5-formyl-6,2′-dimethoxybiphenyl-3-sulfonamide.

reactant | 3-bromo-5-formyl-4-methoxy-benzenesulfonamide | BrC=1C=C(C=C(C1OC)C=O)S(=O)(=O)N | C8H8BrNO4S
reactant | 5-cyano-2-methoxy-benzeneboronic acid | C(#N)C=1C=CC(=C(C1)B(O)O)OC | C8H8BNO3
product | 5′-cyano-5-formyl-6,2′-dimethoxybiphenyl-3-sulfonamide | C(#N)C=1C=CC(=C(C1)C1=CC(=CC(=C1OC)C=O)S(=O)(=O)N)OC | C16H14N2O5S
